US06417192B1
3-(5-Pyrimidyl)acrylic acid (100 g) was added to a mixture of dry methanol (2 L) and 4M hydrogen chloride in dioxan (445 ml) and allowed to stir at 60° C. under argon for 18 h. The mixture was cooled, and the solvent removed under reduced pressure. The residue was partitioned between dichloromethane (500 ml) and was washed with saturated sodium bicarbonate (300 ml). The aqueous layer was extracted with dichloromrethane and the combined dichloromethane layers were dried over magnesium sulfate and evaporated in vacuo to give methyl 3-(5-pyrimidinyl)acrylate (85 g). 1H-NMR (d6-DMSO) δ 3.82(3H, s), 7.03(1H, d), 7.75(1H, d) and 9.28(3H, s).

reactant | 3-(5-Pyrimidyl)acrylic acid | 100 g | N1=CN=CC(=C1)C=CC(=O)O | C7H6N2O2
reactant | methanol | 2 L | CO | CH4O
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | dioxan | 445 ml | O1CCOCC1 | C4H8O2
product | methyl 3-(5-pyrimidinyl)acrylate | 85 g | N1=CN=CC(=C1)C=CC(=O)OC | C8H8N2O2
